US08486967B2
c) (4-Benzyl-6-methyl-pyrimidin-2-yl)-[1-(2-methyl-pyrimidin-4-yl)-piperidin-4-yl]-amine
A solution of 1-(2-methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride (53 mg, 0.2 mmol), 4-benzyl-2-chloro-6-methylpyrimidin (48.1 mg, 0.22 mmol) and N,N-diisopropylethyl amine (120 L, 0.7 mmol) in N-methyl-pyrrolidinone (1 mL) was heated at 200° C. in a microwave oven for 1 hour. The reaction was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel with AcOEt/EtOH 9:1 (v/v) as eluent. The title compound was obtained as a light yellow solid (16 mg, 21%).

reactant | 1-(2-methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride | 0.2 mmol, 53 mg | Cl.Cl.CC1=NC=CC(=N1)N1CCC(CC1)N
reactant | 4-benzyl-2-chloro-6-methylpyrimidin | 0.22 mmol, 48.1 mg | C(C1=CC=CC=C1)C1=NC(=NC(=C1)C)Cl | C12H11ClN2
reactant | N,N-diisopropylethyl amine | 0.7 mmol, 120 L | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methyl-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | (4-Benzyl-6-methyl-pyrimidin-2-yl)-[1-(2-methyl-pyrimidin-4-yl)-piperidin-4-yl]-amine | C(C1=CC=CC=C1)C1=NC(=NC(=C1)C)NC1CCN(CC1)C1=NC(=NC=C1)C | C22H26N6
